US04496572
A solution of n-butyl-lithium in hexane (35 ml of 1.55 M solution) was added dropwise to a stirred solution of 3,5-dibromobenzo[b]thiophene (14.6 g) in dry ether (600 ml) at -70° C. under dry nitrogen. The mixture was stirred at -70° C. for 30 minutes and then a solution of dimethyl disulphide (4.90 g) in 10 ml of dry ether was added with stirring over 5 minutes. The resulting mixture was stirred at -70° C. for 4 hours and then allowed to warm up to room temperature. Water (50 ml) was added and the organic layer was separated, washed with water and dried (Na2SO4). Evaporation of the ether gave an oil which was chromatographed on silica gel. Elution with petrol (b.p. 40°-60°) gave a small amount of impurity followed by pure product. The product-containing fractions were evaporated and the residue was distilled to give 5-bromo-3-methylthiobenzo[b]thiophene (10.36 g), b.p. 140°-144° .COPYRGT.0.6 mm, m.p. 56°-57°.

reactant | n-butyl-lithium | C(CCC)[Li]
reactant | 3,5-dibromobenzo[b]thiophene | 14.6 g | BrC=1C2=C(SC1)C=CC(=C2)Br | C8H4Br2S
reactant | dimethyl disulphide | 4.90 g | CSSC | C2H6S2
reactant | Water | 50 ml | O | H2O
solvent | hexane | 1.55 M, 35 ml | CCCCCC | C6H14
solvent | ether | 600 ml | CCOCC | C4H10O
solvent | ether | 10 ml | CCOCC | C4H10O
product | 5-bromo-3-methylthiobenzo[b]thiophene | 10.36 g | BrC1=CC2=C(SC=C2SC)C=C1 | C9H7BrS2
